US07645784B2
A solution of 2-{[2-amino-6-(trifluoromethyl)phenyl]amino}ethanol (0.57 g) in formic acid (20 mL) was heated at reflux for 20 min. The excess of formic acid was removed in vacuo; the residue was dissolved in a 2 M hydrochloric acid, and heated at reflux for 10 min. The solution was concentrated in vacuum and the residue was co-evaporated with acetonitrile and ethanol. The residue was treated with a saturated solution of sodium bicarbonate and extracted twice with ethyl acetate. The organic phase was washed with brine, dried over magnesium sulfate and concentrated. The crude product was purified by column chromatography on silica using ethyl acetate as an eluent affording 2-[7-(trifluoromethyl)-1H-benzimidazol-1-yl]ethanol, 0.36 g (55% yield) as a white solid. MS (ESI) m/z 231 [M+H]. 1H NMR (400 MHz, DMSO-D6) δ ppm 3.74-3.70 (m, 2H), 4.37 (t, J=5.3 Hz, 2H), 5.06 (t, J=4.8 Hz, 1H), 7.39 (t, J=7.8 Hz, 1H), 7.67 (d, J=7.8 Hz, 1H), 8.01 (d, J=8.1 Hz, 1H), 8.33 (s, 1H).

reactant | 2-{[2-amino-6-(trifluoromethyl)phenyl]amino}ethanol | 0.57 g | NC1=C(C(=CC=C1)C(F)(F)F)NCCO | C9H11F3N2O
reactant | formic acid | 20 mL | C(=O)O | CH2O2
product | 2-[7-(trifluoromethyl)-1H-benzimidazol-1-yl]ethanol | 55% yield | FC(C1=CC=CC2=C1N(C=N2)CCO)(F)F | C10H9F3N2O
